US08648066B2
To the solution of 1,1-dimethylethyl-7-[2-({[(phenylmethyl)oxy]carbonyl}amino)-1H-imidazo[4,5-b]pyridine-6-yl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (4.5 g, 8.73 mmol) in methanol (20 ml) was added 4 N HCl in dioxane at room temperature. Then the reaction mixture was heated to 55° C. for 3 hours. After cooling to room temperature, the precipitate collected by filtration, washed with a minimum of methanol and dried to give phenylmethyl[6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridin-2-yl]carbamate hydrochloride (3.0 g, 76% yield). 1HNMR (400 MHz, CD3OD): 8.59 (m, 1H), 8.51 (s, 1H), 7.85 (m, 1H), 7.79-7.75 (m, 1H), 5.37 (s, 2H), 4.53 (s, 2H), 4.37-4.32 (m, 2H), 3.67-3.64 (m, 2H).

reactant | 1,1-dimethylethyl-7-[2-({[(phenylmethyl)oxy]carbonyl}amino)-1H-imidazo[4,5-b]pyridine-6-yl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 8.73 mmol, 4.5 g | CC(C)(C)C1OC2=C(CN(C1)C(=O)[O-])C=C(C=C2)C=2C=C1C(=NC2)N=C(N1)NC(=O)OCC1=CC=CC=C1
reactant | HCl | 4 N | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | phenylmethyl[6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridin-2-yl]carbamate hydrochloride | 3.0 g, 76% yield | Cl.C1(=CC=CC=C1)CN(C(O)=O)C=1NC=2C(=NC=C(C2)C=2C=CC3=C(CNCCO3)C2)N1 | InChI=1S/C23H21N5O3.ClH/c29-23(30)28(14-15-4-2-1-3-5-15)22-26-19-11-17(13-25-21(19)27-22)16-6-7-20-18(10-16)12-24-8-9-31-20;/h1-7,10-11,13,24H,8-9,12,14H2,(H,29,30)(H,25,26,27);1H
